US09359329B2
A mixture of 2 g (11.56 mmol) of 5-bromopyridin-2-amine, 2.39 mL (13.87 mmol) of 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane and 3.83 g (27.74 mmol) of K2CO3 in 30 mL of DME and 10 mL of water is stirred for 5 minutes under argon, followed by addition of 1 g (2.1 mmol) of palladium bis(tri-t-butylphosphine). The reaction medium is heated for 3 hours at 80° C. After cooling to room temperature, the reaction medium is taken up in 40 mL of water and extracted with EtOAc (3×30 mL). The organic phases are washed with 0.5N HCl solution (3×30 mL). The aqueous phases are neutralized with 1N sodium hydroxide solution and then extracted with EtOAc (2×50 mL). The combined organic phases are dried over Na2SO4, filtered and concentrated under reduced pressure. 1.10 g of 5-(prop-1-en-2-yl)pyridin-2-amine are obtained in the form of a yellow solid, which is used without further purification in the following step.

reactant | 5-bromopyridin-2-amine | 11.56 mmol, 2 g | BrC=1C=CC(=NC1)N | C5H5BrN2
reactant | 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane | 13.87 mmol, 2.39 mL | CC1(OB(OC1(C)C)C(=C)C)C | C9H17BO2
reactant | K2CO3 | 27.74 mmol, 3.83 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 30 mL | COCCOC | C4H10O2
solvent | water | 10 mL | O | H2O
solvent | water | 40 mL | O | H2O
catalyst | palladium bis(tri-t-butylphosphine) | 2.1 mmol, 1 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.[Pd]
product | 5-(prop-1-en-2-yl)pyridin-2-amine | 1.10 g, Yield=71% | C=C(C)C=1C=CC(=NC1)N | C8H10N2
